US06562849B1
1-(Adamant-1-yl)-3-(7-[2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]naphthalen-1-yl)urea (exemplification compound number 1-210)
To a solution of 5-[4-[6-(8-aminonaphthalen-2-yloxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione (0.5 g) in anhydrous N,N-dimethylformamide (10 ml) was added 1-adamantyl isocyanate (0.18 g) and the mixture was stirred at room temperature for 5 days. The reaction mixture was concentrated. The residue was purified by preparative reverse phase high performance liquid chromatography using acetonitrile:water=50:50→60:40→70:30 as the eluant to afford the title compound (0.45 g, mp 250° C. (dec)).

reactant | 5-[4-[6-(8-aminonaphthalen-2-yloxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione | 0.5 g | NC=1C=CC=C2C=CC(=CC12)OC=1C=CC2=C(N(C(=N2)COC2=CC=C(CC3C(NC(S3)=O)=O)C=C2)C)C1 | C29H24N4O4S
reactant | 1-adamantyl isocyanate | 0.18 g | C12(CC3CC(CC(C1)C3)C2)N=C=O | C11H15NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(Adamant-1-yl)-3-(7-[2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]naphthalen-1-yl)urea | 0.45 g | C12(CC3CC(CC(C1)C3)C2)NC(=O)NC2=CC=CC3=CC=C(C=C23)OC=2C=CC3=C(N(C(=N3)COC3=CC=C(C=C3)CC3C(NC(S3)=O)=O)C)C2 | C40H39N5O5S
